US08877975B2
(a) Preparation of 1-(3-(trifluoromethyl)phenyl)cyclohexanecarbonitrile
The title compound was prepared from 2-(3-(trifluoromethyl)phenyl)acetonitrile (3.463 ml, 22.2 mmol) and 1,5-dibromopentane (3.324 ml, 24.4 mmol) according to General Procedure J to yield 1-(3-(trifluoromethyl)phenyl)cyclohexane-carbonitrile (5.40 g, 90%) as a clear oil. 1H NMR (CDCl3) δ 1.26-1.39 (m, 1H), 1.76-1.88 (m, 7H), 2.17 (d, J=11.2 Hz, 2H), 7.51-7.60 (m, 3H), 7.73 (s, 1H). 13C NMR (CDCl3) δ 23.7, 25.0, 37.5, 44.6, 122.5, 125.0, 125.1, 126.0, 129.5, 130.0, 142.8,GC-MS m/z 253.

reactant | 2-(3-(trifluoromethyl)phenyl)acetonitrile | 22.2 mmol, 3.463 ml | FC(C=1C=C(C=CC1)CC#N)(F)F | C9H6F3N
reactant | 1,5-dibromopentane | 24.4 mmol, 3.324 ml | BrCCCCCBr | C5H10Br2
product | 1-(3-(trifluoromethyl)phenyl)cyclohexane-carbonitrile | 5.40 g, 90% | FC(C=1C=C(C=CC1)C1(CCCCC1)C#N)(F)F | C14H14F3N
